US06262058B1
In a sulfonation flask, 2.9 g (0.072 mol) of a ca. 60% sodium hydride dispersion is added to 50 ml of absolute tetrahydrofurane. Then 17.7 g (0.069 mol) of methyl 2-(3-propylthioureido)thiophene-3-carboxylate, dissolved in 100 ml of absolute tetrahydrofurane, are added dropwise, such that the internal temperature remains constant at about 25° C. The mixture is stirred at reflux temperature for 5 hours and after cooling to room temperature 10.9 g (0.077 mol) of methyliodide, dissolved in 10 ml of tetrahydrofurane, are added dropwise. Then the mixture is stirred another 2 hours at reflux temperature. After completion of the reaction, the tetrahydrofurane is removed in the water-jet vacuum and the residue taken up in ethyl acetate. The organic layer is washed twice with water and then dried over sodium sulfate. After removal of the solvent in the water-jet vacuum, the crude product is obtained, which is purified by digestion in n-hexane. 15.1 g of 2-methylsulfanyl-3-propyl-3H-thieno[2.3-d]pyrimidin-4-one are obtained in the form of a slightly yellowish powder having a melting point of 94-96° C.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-(3-propylthioureido)thiophene-3-carboxylate | 0.069 mol, 17.7 g | C(CC)NC(NC=1SC=CC1C(=O)OC)=S | C10H14N2O2S2
reactant | methyliodide | 0.077 mol, 10.9 g | CI | CH3I
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | 2-methylsulfanyl-3-propyl-3H-thieno[2.3-d]pyrimidin-4-one | 15.1 g | CSC=1N(C(C2=C(N1)SC=C2)=O)CCC | C10H12N2OS2
